US08039460B2
Step A: (6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine
Hydrochloric acid (4.0 M in dioxane; 4.0 mL, 16.0 mmol) was added to a solution of tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate (100 mg, 0.224 mmol) in dioxane (2 mL). After 1 h, the reaction mixture was concentrated to give the hydrochloride salt of the title compound. MS 346.1 (M+1).

reactant | Hydrochloric acid | 16.0 mmol, 4.0 M, 4.0 mL | Cl | ClH
reactant | tert-butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 0.224 mmol, 100 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(OC(C)(C)C)=O | C21H24F5N3O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)N | C16H16F5N3
